US05807882
Stage G: 7,12-Dioxa-5-azabenz[a]anthracene
Under an inert atmosphere, 1 mmol of 6-chloro-5-aza-7,12-dioxabenz[a]anthracene and 8 mmol of powdered zinc are brought to 50° C. in 5 ml of acetic acid for 8 hours. After cooling, the reaction mixture is diluted in methanol and then filtered through Celite. The residue is concentrated under vacuum, then washed with saturated sodium hydrogen carbonate solution and then extracted with chloroform. The organic phase is dried over magnesium sulfate and concentrated under vacuum. The crude mixture is chromatographed by flash chromatography on silica gel (eluent: ethyl acetate/petroleum ether).

reactant | 6-chloro-5-aza-7,12-dioxabenz[a]anthracene | 1 mmol | ClC=1N=C2C(=C3OC4=CC=CC=C4OC13)C=CC=C2 | C15H8ClNO2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
catalyst | zinc | 8 mmol | [Zn] | Zn
product | 7,12-Dioxa-5-azabenz[a]anthracene | C1=CC=CC=2C1=C1OC3=CC=CC=C3OC1=CN2 | C15H9NO2
